.title Inverter_20bec001
.include techfile130.txt

.subckt inv vi vout vdd
Mp vout vi vdd vdd pmos l=130n w=2500n
Mn vout vi 0 0 nmos l=130n w=1000n
.ends inv

.end
